US08012976B2
9-(4-Fluorophenyl)-8-(4-(pyrrolidin-1-ylmethyl)phenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
To a stirred mixture of 4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde (0.1 g, 0.26 mmol) in anhydrous DCM (4 mL) was added AcOH (94 mg, 1.56 mmol) at 25° C. for 0.5 h, then pyrrolidine (37 mg, 0.52 mmol) was added at 25° C., stirred overnight. NaBH(OAc)3 was added at ice bath, and stirred for 5 h. The mixture was concentrated to give the crude product. The crude product was dissolved in ethyl acetate and to this solution was added 2N HCl (10 mL). The aqueous phase was separated and 20% NaOH (20 ml) was added. The mixture was extracted with ethyl acetate and the organic phase was separated to give the title compound (30 mg, yield 26%). LC-MS (ESI) m/z: 441(M+1)+.

reactant | 4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde | 0.26 mmol, 0.1 g | FC1=CC=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(C=O)C=C2 | C23H16FN3O2
reactant | AcOH | 1.56 mmol, 94 mg | CC(=O)O | C2H4O2
reactant | pyrrolidine | 0.52 mmol, 37 mg | N1CCCC1 | C4H9N
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | HCl | 2N, 10 mL | Cl | ClH
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-(4-Fluorophenyl)-8-(4-(pyrrolidin-1-ylmethyl)phenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 30 mg, yield 26% | FC1=CC=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(C=C2)CN2CCCC2 | C27H25FN4O
